US05861417
4-Phenylpiperidine-4-carboxylic acid amide hydrochloric acid salt
Combine 1-benzyl-4-phenylpiperidine-4-carboxylic acid amide N-oxide (529 g, 1700 mmol), 10% palladium-on-carbon (25 g), and acetic acid (5 L) in an autoclave. Flush the autoclave with nitrogen and then charge with 255 psi of hydrogen. Stir while recharging the autoclave with hydrogen as required to maintain the pressure above 100 psi. When hydrogen consumption ceases, flush the autoclave with nitrogen remove the catalyst by filtration. Evaporate the filtrate invacuo to give a residue. Dissolve the residue in ethyl acetate (5 L), acidify by the addition of 12M aqueous hydrochloric acid solution (150 mL), and heat to reflux for 15 minutes. Cool the mixture to 5° C. to give solid. Collect the solid by filtration, rinse with ethyl acetate, and air dry to give the title compound.

reactant | 1-benzyl-4-phenylpiperidine-4-carboxylic acid amide N-oxide | 1700 mmol, 529 g | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)[NH2]=O)C1=CC=CC=C1 | C19H22N2O2
reactant | acetic acid | 5 L | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 12M, 150 mL | Cl | ClH
solvent | ethyl acetate | 5 L | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-carbon | 25 g | [Pd] | Pd
product | 4-Phenylpiperidine-4-carboxylic acid amide hydrochloric acid salt | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(=O)N | InChI=1S/C12H16N2O.ClH/c13-11(15)12(6-8-14-9-7-12)10-4-2-1-3-5-10;/h1-5,14H,6-9H2,(H2,13,15);1H
